* Top level spice file 

.option post=1
*.chkanode type=gate dv=0.5*pvdd report=active
.option parhier = local 
.option measform = 1
.option lis_new
.option post probe

*************************************** User defined functions ****************
.param V_meas(node, ref) = 'v(node) - v(ref)'


*************************************** Input Models**************************
	***** define load current source model used in die model *****
	*.inc ./hspice_inc/out_curr_profile_CPU_55ns_13A_1000ns_cnst_500ns_9_13_rand_55ns_rampDown_noClk.txt
	*.inc ./hspice_inc/out_curr_profile_CPU_72ns_13A_1000ns_cnst_500ns_9_13_rand_72ns_rampDown_noClk.txt
	.inc ./hspice_inc/out_curr_profile_CPU_144ns_13A_1000ns_cnst_500ns_9_13_rand_144ns_rampDown_noClk.txt

	*** GPU profile
.inc ./hspice_inc/out_curr_profile_GPU_20ns_2p5A_5000ns_cnst_noClk.txt

	***** define die model *****
.inc ./hspice_inc/model_die_CPU.inc 
.inc ./hspice_inc/model_die_GPU.inc 

	***** define pkg model *****
.inc ./hspice_inc/C_v1_forCPU_wBF_wDSU_wGPU_RmLF_1e4Hz_IdEM.cir
.param pkg_model = str('C_v1_forCPU_wBF_wDSU_wGPU_RmLF_1e4Hz_IdEM')

	***** define PCB model *****
	*.inc ./hspice_inc/ACM2_PT00547399_A_01_cut_CPU_PSI_RmLF_manip_IdEM0p5.cir 
	*.param PCB_model = str('ACM2_PT00547399_A_01_cut_CPU_PSI_RmLF_manip_IdEM0p5')

	*.inc ./hspice_inc/ACM2_PT00547399_A_01_Layout_Study_20230626_cut_CPU_RmDC_mani_IdEM_0p5.cir		*** 0626 Cadera improvement
	*.param PCB_model = str('ACM2_PT00547399_A_01_Layout_Study_20230626_cut_CPU_RmDC_mani_IdEM_0p5')

.inc ./hspice_inc/ACM2_PT00547399_A_01_Layout_Study_20230626_cut_CPU_RmL5L10_RmDC_mani_IdEM0p5.cir		*** 0626, but remove L5, L10 pwr shape
.param PCB_model = str('ACM2_PT00547399_A_01_Layout_Study_20230626_cut_CPU_RmL5L10_RmDC_mani_IdEM0p5')

*************************************** Input params **************************
.param Vdd 	= 0.75

.param CPU_die = str('model_die_lumped_cpu')
.param GPU_die = str('model_die_lumped_gpu')

.param Cdie_cpu	= '226.n'
.param Rdie_cpu	= '0.664m'
.param Rleak_cpu= 0.232

.param Cdie_gpu	= '187.n'
.param Rdie_gpu	= '0.81m'
.param Rleak_gpu= 1.27

.param tStep	= 10.p
.param tStop	= 3.u
.param Lcomp_val= 10.p		*** temporarily mimic Andes pkg design rule, use 0 if pkg model is appropriate

*************************************** cap model *****************************
.inc ../models_cap/GCM155D70E106ME36_DC0V_125degC_0402_10uF.mod
.inc ../models_cap/GCM155D70G475ME36_DC0V_125degC_0402_4p7uF.mod
.inc ../models_cap/GCM155C71A105KE38_DC0V_125degC_0402_1uF.mod
.inc ../models_cap/GCM31CD70G476ME02_DC0V_125degC_1206_47uF.mod
.inc ../models_cap/GCM32ED70E107ME36_DC0V_125degC_1210_100uF.mod
.inc ../models_cap/GCM033D70E105ME36_DC0V_125degC_0201_1uF.mod 
.inc ../models_cap/NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF.mod
.inc ../models_cap/LLC152D70G105ME01_DC0V_125degC_0204_1uF.mod
.inc ../models_cap/LLL153C70G104ME01_DC0V_125degC_0204_0.1uF.mod
.inc ../models_cap/GRT033R70J103KE01_DC0V_125degC_0201_0p01uF.mod
.inc ../models_cap/GCM155R71C104KA55_DC0V_125degC_0402_0.1uF.mod
.inc ../models_cap/GCM21BD70G226ME36_DC0V_125degC_0805_22uF.mod
.inc ../models_cap/GCM155R71E153KA55_DC0V_125degC_0402_0.015uF.mod
.inc ../models_cap/GRT033C70J104KE01_DC0V_125degC_0201_0p1uF.mod
.inc ../models_cap/mlcc_470uF_mockup_T598D477M2R5ATE009.mod
.inc ../models_cap/open_circuit.mod

.inc ../models_cap/EC1001.mod
.inc ../models_cap/EC1002.mod
.inc ../models_cap/EC1100_200nF.mod

	***** define cap model strings for better ref ****
.param mlcc_1uF_0402 		= str('GCM155C71A105KE38_DC0V_125degC_0402_1uF')
.param mlcc_1uF_0204 		= str('LLC152D70G105ME01_DC0V_125degC_0204_1uF')
.param mlcc_1uF_0201 		= str('GCM033D70E105ME36_DC0V_125degC_0201_1uF')
.param mlcc_1uF_0402_3T		= str('NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF')
.param mlcc_4p7uF_0402 		= str('GCM155D70G475ME36_DC0V_125degC_0402_4p7uF')
.param mlcc_10uF_0402 		= str('GCM155D70E106ME36_DC0V_125degC_0402_10uF')
.param mlcc_47uF_1206		= str('GCM31CD70G476ME02_DC0V_125degC_1206_47uF')
.param mlcc_100uF_1210		= str('GCM32ED70E107ME36_DC0V_125degC_1210_100uF')
.param mlcc_0p1uF_0402		= str('GCM155R71C104KA55_DC0V_125degC')
.param mlcc_0p1uF_0201		= str('GRT033C70J104KE01_DC0V_125degC')
.param mlcc_0p1uF_0204 		= str('LLL153C70G104ME01_DC0V_125degC')
.param mlcc_0p015uF_0402	= str('GCM155R71E153KA55_DC0V_125degC')
.param mlcc_0p01uF_0201		= str('GRT033R70J103KE01_DC0V_125degC')
.param mlcc_22uF_0805		= str('GCM21BD70G226ME36_DC0V_125degC_0805_22uF')
.param mlcc_470uF_mockup	= str('mlcc_470uF_mockup_T598D477M2R5ATE009') 

.param siCap_empwr_EC1001 = str('EC1001')
.param siCap_empwr_EC1002 = str('EC1002')
.param siCap_empwr_EC1100_200nF = str('EC1100_200nF')

*************************************** PMIC **********************************
Vref_gnd 	ref_gnd		0	0.				*** opt 1/2 ideal PMIC w/o remote sense feedback
	*E_fdbk	ref_gnd	0	VCVS DELAY pmic_pwr pkg_bump_1_0  td=50.n	*** opt 2/2 VCVS to model feedback

VshortPMIC	pmic_pwr	ref_gnd	Vdd		*** can be switched to PMIC model 

*************************************** Socket ********************************
Rskt	bga_pcb		bga_pkg		0.				*** can add socket model 

*************************************** PCB ***********************************

.if (0)		*** PCB model 0216
	Xblk_PCB
	+ pmic_pwr	ref_gnd
	+ bga_pcb	ref_gnd
	+ pcbCap_C201   ref_gnd
	+ pcbCap_C202   ref_gnd
	+ pcbCap_C203   ref_gnd
	+ pcbCap_C1061  ref_gnd
	+ pcbCap_C1062  ref_gnd
	+ pcbCap_C1063  ref_gnd
	+ pcbCap_C1064  ref_gnd
	+ pcbCap_C1065  ref_gnd
	+ pcbCap_C1066  ref_gnd
	+ pcbCap_C1934  ref_gnd
	+ pcbCap_C1977  ref_gnd
	+ pcbCap_C1978  ref_gnd
	+ pcbCap_C1979  ref_gnd
	+ pcbCap_C1980  ref_gnd
	+ pcbCap_C1981  ref_gnd
	+ pcbCap_C1982  ref_gnd
	+ pcbCap_C1983  ref_gnd
	+ pcbCap_C1984  ref_gnd
	+ pcbCap_C1985  ref_gnd
	+ pcbCap_C2011  ref_gnd
	+ pcbCap_C2023  ref_gnd
	+ pcbCap_C2024  ref_gnd
	+ pcbCap_C2025  ref_gnd
	+ pcbCap_C2026  ref_gnd
	+ pcbCap_C2082  ref_gnd
	+ pcbCap_C2083  ref_gnd
	+ pcbCap_C2084  ref_gnd
	+ pcbCap_C2094  ref_gnd
	+ pcbCap_C2095  ref_gnd
	+ pcbCap_C2096  ref_gnd
	+ pcbCap_C2097  ref_gnd
	+ pcbCap_C2098  ref_gnd
	+ pcbCap_C2099  ref_gnd
	+ pcbCap_C2100  ref_gnd
	+ pcbCap_C2130  ref_gnd
	+ pcbCap_C2131  ref_gnd
	+ pcbCap_C2132  ref_gnd
	+ pcbCap_C2133  ref_gnd
	+ pcbCap_C2134  ref_gnd
	+ pcbCap_C2135  ref_gnd
	+ pcbCap_C2144  ref_gnd
	+ pcbCap_C2145  ref_gnd
	+ pcbCap_C2146  ref_gnd
	+ pcbCap_C2147  ref_gnd
	+ pcbCap_C2148  ref_gnd
	+ pcbCap_C2149  ref_gnd
	+ pcbCap_C2150  ref_gnd
	+ pcbCap_C2151  ref_gnd
	+ pcbCap_C2200  ref_gnd
	+ pcbCap_C2201  ref_gnd
	+ pcbCap_C2202  ref_gnd
	+ pcbCap_C2203  ref_gnd
	+ pcbCap_C2204  ref_gnd
	+ pcbCap_C2205  ref_gnd
	+ pcbCap_C2213  ref_gnd
	+ pcbCap_C2214  ref_gnd
	+ pcbCap_C2215  ref_gnd
	+ pcbCap_C2216  ref_gnd
	+ pcbCap_C2217  ref_gnd
	+ pcbCap_C2218  ref_gnd
	+ pcbCap_C2219  ref_gnd
	+ str(PCB_model)

	*** PCB cap ***
	XpcbCap_C201   pcbCap_C201   ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C202   pcbCap_C202   ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C203   pcbCap_C203   ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1061  pcbCap_C1061  ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1062  pcbCap_C1062  ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1063  pcbCap_C1063  ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1064  pcbCap_C1064  ref_gnd	str(mlcc_470uF_mockup)	*** PMIC bulk cap
	XpcbCap_C1065  pcbCap_C1065  ref_gnd	str(mlcc_470uF_mockup)	*** PMIC bulk cap
	XpcbCap_C1066  pcbCap_C1066  ref_gnd	str(mlcc_470uF_mockup)	*** PMIC bulk cap
		*XpcbCap_C1934  pcbCap_C1934  ref_gnd	
		*XpcbCap_C1977  pcbCap_C1977  ref_gnd
		*XpcbCap_C1978  pcbCap_C1978  ref_gnd
		*XpcbCap_C1979  pcbCap_C1979  ref_gnd
		*XpcbCap_C1980  pcbCap_C1980  ref_gnd
		*XpcbCap_C1981  pcbCap_C1981  ref_gnd
	XpcbCap_C1982  pcbCap_C1982  ref_gnd	str(mlcc_1uF_0204)
	XpcbCap_C1983  pcbCap_C1983  ref_gnd	str(mlcc_1uF_0204)
	XpcbCap_C1984  pcbCap_C1984  ref_gnd	str(mlcc_1uF_0204)
		*XpcbCap_C1985  pcbCap_C1985  ref_gnd
		*XpcbCap_C2011  pcbCap_C2011  ref_gnd
		*XpcbCap_C2023  pcbCap_C2023  ref_gnd
		*XpcbCap_C2024  pcbCap_C2024  ref_gnd
		*XpcbCap_C2025  pcbCap_C2025  ref_gnd
		*XpcbCap_C2026  pcbCap_C2026  ref_gnd
		*XpcbCap_C2082  pcbCap_C2082  ref_gnd
		*XpcbCap_C2083  pcbCap_C2083  ref_gnd
		*XpcbCap_C2084  pcbCap_C2084  ref_gnd
	XpcbCap_C2094  pcbCap_C2094  ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2095  pcbCap_C2095  ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2096  pcbCap_C2096  ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2097  pcbCap_C2097  ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2098  pcbCap_C2098  ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2099  pcbCap_C2099  ref_gnd	str(mlcc_4p7uF_0402)
		*XpcbCap_C2100  pcbCap_C2100  ref_gnd
		*XpcbCap_C2130  pcbCap_C2130  ref_gnd
		*XpcbCap_C2131  pcbCap_C2131  ref_gnd
		*XpcbCap_C2132  pcbCap_C2132  ref_gnd
		*XpcbCap_C2133  pcbCap_C2133  ref_gnd
		*XpcbCap_C2134  pcbCap_C2134  ref_gnd
		*XpcbCap_C2135  pcbCap_C2135  ref_gnd
		*XpcbCap_C2144  pcbCap_C2144  ref_gnd
		*XpcbCap_C2145  pcbCap_C2145  ref_gnd
	XpcbCap_C2146  pcbCap_C2146  ref_gnd	str(mlcc_0p1uF_0402)
	XpcbCap_C2147  pcbCap_C2147  ref_gnd	str(mlcc_0p1uF_0402)
	XpcbCap_C2148  pcbCap_C2148  ref_gnd	str(mlcc_0p1uF_0402)
	XpcbCap_C2149  pcbCap_C2149  ref_gnd	str(mlcc_0p1uF_0402)
	XpcbCap_C2150  pcbCap_C2150  ref_gnd	str(mlcc_0p1uF_0402)
	XpcbCap_C2151  pcbCap_C2151  ref_gnd	str(mlcc_0p1uF_0402)
		*XpcbCap_C2200  pcbCap_C2200  ref_gnd	
		*XpcbCap_C2201  pcbCap_C2201  ref_gnd
		*XpcbCap_C2202  pcbCap_C2202  ref_gnd
		*XpcbCap_C2203  pcbCap_C2203  ref_gnd
		*XpcbCap_C2204  pcbCap_C2204  ref_gnd
		*XpcbCap_C2205  pcbCap_C2205  ref_gnd
	XpcbCap_C2213  pcbCap_C2213  ref_gnd	str(mlcc_47uF_1206)

	.if (1) 	*** Added to suppress low freq, jgwei
		XpcbCap_C2214  pcbCap_C2214  ref_gnd	str(mlcc_100uF_1210)
		XpcbCap_C2215  pcbCap_C2215  ref_gnd	str(mlcc_100uF_1210)
		XpcbCap_C2216  pcbCap_C2216  ref_gnd	str(mlcc_100uF_1210)
		XpcbCap_C2217  pcbCap_C2217  ref_gnd	str(mlcc_47uF_1206)
		XpcbCap_C2218  pcbCap_C2218  ref_gnd	str(mlcc_47uF_1206)
		XpcbCap_C2219  pcbCap_C2219  ref_gnd	str(mlcc_47uF_1206)
	.endif 
.endif 	*** end of PCB 0216

.if (1)	*** PCB 0626
	Xblk_PCB
	+ pmic_pwr	ref_gnd
	+ bga_pcb	ref_gnd
	+pcbCap_C200   ref_gnd
	+pcbCap_C203   ref_gnd
	+pcbCap_C204   ref_gnd
	+pcbCap_C412   ref_gnd
	+pcbCap_C413   ref_gnd
	+pcbCap_C423   ref_gnd
	+pcbCap_C424   ref_gnd
	+pcbCap_C477   ref_gnd
	+pcbCap_C487   ref_gnd
	+pcbCap_C494   ref_gnd
	+pcbCap_C501   ref_gnd
	+pcbCap_C511   ref_gnd
	+pcbCap_C1061  ref_gnd
	+pcbCap_C1062  ref_gnd
	+pcbCap_C1063  ref_gnd
	+pcbCap_C1064  ref_gnd
	+pcbCap_C1065  ref_gnd
	+pcbCap_C1066  ref_gnd
	+pcbCap_C1519  ref_gnd
	+pcbCap_C1529  ref_gnd
	+pcbCap_C1538  ref_gnd
	+pcbCap_C1543  ref_gnd
	+pcbCap_C1544  ref_gnd
	+pcbCap_C1934  ref_gnd
	+pcbCap_C1977  ref_gnd
	+pcbCap_C1978  ref_gnd
	+pcbCap_C1979  ref_gnd
	+pcbCap_C1980  ref_gnd
	+pcbCap_C1981  ref_gnd
	+pcbCap_C1982  ref_gnd
	+pcbCap_C1983  ref_gnd
	+pcbCap_C1984  ref_gnd
	+pcbCap_C1985  ref_gnd
	+pcbCap_C2011  ref_gnd
	+pcbCap_C2023  ref_gnd
	+pcbCap_C2024  ref_gnd
	+pcbCap_C2025  ref_gnd
	+pcbCap_C2026  ref_gnd
	+pcbCap_C2082  ref_gnd
	+pcbCap_C2083  ref_gnd
	+pcbCap_C2084  ref_gnd
	+pcbCap_C2094  ref_gnd
	+pcbCap_C2095  ref_gnd
	+pcbCap_C2096  ref_gnd
	+pcbCap_C2097  ref_gnd
	+pcbCap_C2098  ref_gnd
	+pcbCap_C2099  ref_gnd
	+pcbCap_C2100  ref_gnd
	+pcbCap_C2130  ref_gnd
	+pcbCap_C2131  ref_gnd
	+pcbCap_C2132  ref_gnd
	+pcbCap_C2133  ref_gnd
	+pcbCap_C2134  ref_gnd
	+pcbCap_C2135  ref_gnd
	+pcbCap_C2144  ref_gnd
	+pcbCap_C2145  ref_gnd
	+pcbCap_C2146  ref_gnd
	+pcbCap_C2147  ref_gnd
	+pcbCap_C2148  ref_gnd
	+pcbCap_C2149  ref_gnd
	+pcbCap_C2150  ref_gnd
	+pcbCap_C2151  ref_gnd
	+pcbCap_C2200  ref_gnd
	+pcbCap_C2201  ref_gnd
	+pcbCap_C2202  ref_gnd
	+pcbCap_C2203  ref_gnd
	+pcbCap_C2204  ref_gnd
	+pcbCap_C2205  ref_gnd
	+pcbCap_C2213  ref_gnd
	+pcbCap_C2214  ref_gnd
	+pcbCap_C2215  ref_gnd
	+pcbCap_C2216  ref_gnd
	+pcbCap_C2217  ref_gnd
	+pcbCap_C2218  ref_gnd
	+pcbCap_C2219  ref_gnd
	+ str(PCB_model)

	*** PCB cap ***
	XpcbCap_C200   pcbCap_C200  ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C203   pcbCap_C203  ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C204   pcbCap_C204  ref_gnd	str(mlcc_10uF_0402)
		*XpcbCap_C412   pcbCap_C412  ref_gnd
		*XpcbCap_C413   pcbCap_C413  ref_gnd
		*XpcbCap_C423   pcbCap_C423  ref_gnd
		*XpcbCap_C424   pcbCap_C424  ref_gnd
		*XpcbCap_C477   pcbCap_C477  ref_gnd
		*XpcbCap_C487   pcbCap_C487  ref_gnd
		*XpcbCap_C494   pcbCap_C494  ref_gnd
	XpcbCap_C1061  pcbCap_C1061 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1062  pcbCap_C1062 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1063  pcbCap_C1063 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1064  pcbCap_C1064 ref_gnd	str(mlcc_470uF_mockup)	*** PMIC bulk cap
	XpcbCap_C1065  pcbCap_C1065 ref_gnd	str(mlcc_470uF_mockup)	*** PMIC bulk cap
	XpcbCap_C1066  pcbCap_C1066 ref_gnd	str(mlcc_470uF_mockup)	*** PMIC bulk cap
		*XpcbCap_C1519  pcbCap_C1519 ref_gnd
	XpcbCap_C1934  pcbCap_C1934 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1977  pcbCap_C1977 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C1978  pcbCap_C1978 ref_gnd	str(mlcc_1uF_0402)
	XpcbCap_C1979  pcbCap_C1979 ref_gnd	str(mlcc_1uF_0402)
	XpcbCap_C1980  pcbCap_C1980 ref_gnd	str(mlcc_1uF_0402)
	XpcbCap_C1981  pcbCap_C1981 ref_gnd	str(mlcc_1uF_0402)
		*XpcbCap_C1982  pcbCap_C1982 ref_gnd	
		*XpcbCap_C1983  pcbCap_C1983 ref_gnd
		*XpcbCap_C1984  pcbCap_C1984 ref_gnd
	XpcbCap_C1985  pcbCap_C1985 ref_gnd	str(mlcc_1uF_0402)
	XpcbCap_C2011  pcbCap_C2011 ref_gnd	str(mlcc_1uF_0402)
	XpcbCap_C2023  pcbCap_C2023 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2024  pcbCap_C2024 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2025  pcbCap_C2025 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2026  pcbCap_C2026 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2082  pcbCap_C2082 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2083  pcbCap_C2083 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2084  pcbCap_C2084 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2094  pcbCap_C2094 ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2095  pcbCap_C2095 ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2096  pcbCap_C2096 ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2097  pcbCap_C2097 ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2098  pcbCap_C2098 ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2099  pcbCap_C2099 ref_gnd	str(mlcc_4p7uF_0402)
	XpcbCap_C2100  pcbCap_C2100 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2130  pcbCap_C2130 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2131  pcbCap_C2131 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2132  pcbCap_C2132 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2133  pcbCap_C2133 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2134  pcbCap_C2134 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2135  pcbCap_C2135 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2144  pcbCap_C2144 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2145  pcbCap_C2145 ref_gnd	str(mlcc_10uF_0402)
		*XpcbCap_C2146  pcbCap_C2146 ref_gnd
		*XpcbCap_C2147  pcbCap_C2147 ref_gnd
		*XpcbCap_C2148  pcbCap_C2148 ref_gnd
		*XpcbCap_C2149  pcbCap_C2149 ref_gnd
		*XpcbCap_C2150  pcbCap_C2150 ref_gnd
		*XpcbCap_C2151  pcbCap_C2151 ref_gnd
	XpcbCap_C2200  pcbCap_C2200 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2201  pcbCap_C2201 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2202  pcbCap_C2202 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2203  pcbCap_C2203 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2204  pcbCap_C2204 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2205  pcbCap_C2205 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2213  pcbCap_C2213 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2214  pcbCap_C2214 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2215  pcbCap_C2215 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2216  pcbCap_C2216 ref_gnd	str(mlcc_10uF_0402)
	XpcbCap_C2217  pcbCap_C2217 ref_gnd	str(mlcc_10uF_0402)

	XpcbCap_C501   pcbCap_C501  ref_gnd	str(mlcc_100uF_1210)
	XpcbCap_C511   pcbCap_C511  ref_gnd	str(mlcc_100uF_1210)
	XpcbCap_C1529  pcbCap_C1529 ref_gnd	str(mlcc_47uF_1206)	*** start of bulk caps near or under SoC shadow, might not be feasible
	XpcbCap_C1538  pcbCap_C1538 ref_gnd	str(mlcc_47uF_1206)
	XpcbCap_C1543  pcbCap_C1543 ref_gnd	str(mlcc_100uF_1210)
	XpcbCap_C1544  pcbCap_C1544 ref_gnd	str(mlcc_47uF_1206)
		*XpcbCap_C2218  pcbCap_C2218 ref_gnd	str(mlcc_47uF_1206)
		*XpcbCap_C2219  pcbCap_C2219 ref_gnd	str(mlcc_47uF_1206)

.endif 		*** end of PCB 0626
*************************************** Pkg ***********************************
L_comp		pkg_bump 	pkg_bump_toPkge		Lcomp_val
L_comp_gpu	pkg_bump_gpu 	pkg_bump_toPkge_gpu	Lcomp_val

.if (1)
	Xblk_pkg
	+ pkg_bump_toPkge		ref_gnd 
	+ pkg_bump_DSU_toPkge		ref_gnd		*** DSU die bump group, may not be connected to die model
	+ pkg_bump_toPkge		ref_gnd 
	+ pkg_bump_toPkge		ref_gnd 
	+ pkg_bump_toPkge		ref_gnd 
	+ bga_pkg 				ref_gnd 
	+ pkgCap_1		ref_gnd	
	+ pkgCap_2		ref_gnd	
	+ pkgCap_3		ref_gnd	
	+ pkgCap_4		ref_gnd	
	+ pkgCap_5		ref_gnd	
	+ pkgCap_6		ref_gnd	
	+ pkgCap_7		ref_gnd	
	+ pkgCap_8		ref_gnd	
	+ pkgCap_9		ref_gnd	
	+ pkgCap_10		ref_gnd	
	+ pkgCap_11		ref_gnd	
	+ pkgCap_12		ref_gnd	
	+ pkgCap_13		ref_gnd	
	+ pkgCap_14		ref_gnd	
	+ pkgCap_15		ref_gnd	
	+ pkgCap_16		ref_gnd	
	+ pkgCap_17		ref_gnd	
	+ pkgCap_18		ref_gnd	
	+ pkgCap_19		ref_gnd	
	+ pkgCap_20		ref_gnd	
	+ pkg_bump_toPkge_gpu	ref_gnd		*** GPU die bump group, connect to GPU die model
	+ str(pkg_model)

	*** Pkg cap ***
	XpkgCap_1  pkgCap_1	ref_gnd		str(mlcc_0p1uF_0204)
	XpkgCap_2  pkgCap_2	ref_gnd		str(mlcc_0p1uF_0204)
	XpkgCap_3  pkgCap_3	ref_gnd		str(mlcc_1uF_0204)
	XpkgCap_4  pkgCap_4	ref_gnd		str(mlcc_1uF_0204)
	XpkgCap_5  pkgCap_5	ref_gnd		str(mlcc_1uF_0204)
	XpkgCap_6  pkgCap_6	ref_gnd		str(mlcc_0p1uF_0204)
	XpkgCap_7  pkgCap_7	ref_gnd		str(mlcc_0p1uF_0204)
	XpkgCap_8  pkgCap_8	ref_gnd		str(mlcc_0p1uF_0204)
	XpkgCap_9  pkgCap_9	ref_gnd		str(mlcc_0p1uF_0204)
	XpkgCap_10  pkgCap_10	ref_gnd		str(mlcc_0p1uF_0204)
	XpkgCap_11  pkgCap_11	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_12  pkgCap_12	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_13  pkgCap_13	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_14  pkgCap_14	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_15  pkgCap_15	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_16  pkgCap_16	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_17  pkgCap_17	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_18  pkgCap_18	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_19  pkgCap_19	ref_gnd		str(mlcc_10uF_0402)
	XpkgCap_20  pkgCap_20 	ref_gnd		str(mlcc_10uF_0402)	
	
.endif 

*************************************** Die ***********************************
Xblk_die 	pkg_bump	ref_gnd str(CPU_die) C_die= 'Cdie_cpu'	R_die_1= 'Rdie_cpu' R_die_2= 1.e-5	R_leak= 'Rleak_cpu'
Xblk_die_gpu 	pkg_bump_gpu	ref_gnd str(GPU_die) C_die= 'Cdie_gpu'	R_die_1= 'Rdie_gpu' R_die_2= 1.e-5	R_leak= 'Rleak_gpu'

*************************************** Analysis I: AC simulation *************
.if ( 0 )
	.if ( 1 )
	*** NOTE: DO not include port def if tran analysis later
	P1 pkg_bump	ref_gnd	port=1	z0 = 0.1
	P2 pkg_bump_gpu	ref_gnd	port=2	z0 = 0.1

	
	.lin 	sparcalc=1 	filename=impedance_plot	noisecalc=0 	gdcalc=0	format=touchstone 	dataformat=MA 
	*.probe  ac s11(db) s11(p) s21(db) s21(p) 
	.probe ac zin(1)(m) zin(1)(p) zin(2)(m) zin(2)(p)
	.endif 

	.ac 	dec 50 1. 1.G
	*I_pkg_bump_1_0 		pkg_bump_1_0	ref_gnd		AC=1
	*.probe AC v(pkg_bump_1_0)

.endif

*************************************** Analysis II: Transient simulation *****
.if ( 1 )
	.tran tStep tSTOP 

	.probe tran v(pkg_bump) v(pkg_bump_gpu) v(bga_pkg)
	.probe x(Xblk_die.pin_bump)		x(Xblk_PCB.a_1)		i(L_comp) i(L_comp_gpu)


	*.probe i(*)
	*.probe x(*)

.endif 